US04663319
Sodium hydride (in the form of a 60% dispersion in oil) (447 mg) is suspended in N,N-dimethylformamide (10 ml), and thereto is added dropwise a solution of 4-methoxy-5,6-dihydro-2(1H)-pyridone (1.29 g) in N,N-dimethylformamide (30 ml). The mixture is stirred under ice-cooling for 30 minutes, and thereto is added dropwise ethyl iodide (0.97 ml). The mixture is stirred under ice-cooling for 30 minutes and further at room temperature for 2.5 hours. The reaction mixture is poured onto water and extracted with chloroform. The extract is washed with a saturated sodium chloride solution and dried. After evaporating the solvent, the residue is dissolved in ethanol (120 ml) and thereto is added 10% hydrochloric acid (60 ml), and the mixture is allowed to stand at 25° C. for 5 hours. After distilling off the solvent under reduced pressure, the residue is dissolved in chloroform, washed with 5% aqueous sodium hydrogen carbonate solution and water, and then dried. The solvent is distilled off to give 1-ethyl-2,4-dioxopiperidine (1.12 g, 78%).

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-methoxy-5,6-dihydro-2(1H)-pyridone | 1.29 g | COC1=CC(NCC1)=O | C6H9NO2
reactant | ethyl iodide | 0.97 ml | C(C)I | C2H5I
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-ethyl-2,4-dioxopiperidine | 1.12 g, 78% | C(C)N1C(CC(CC1)=O)=O | C7H11NO2
